US07405233B2
SYNTHESIS OF 3-[3-(4-ISOPROPYL-PHENYL)-UREIDO]-BENZOIC ACID (COMPOUND 8)
A solution of 3-aminobenzoic acid (0.46 g, 3.4 mmol) in dimethylformamide (20 mL) at 0° C. was treated with 4-isopropylphenyl isocyanate (0.59 mL, 3.7 mmol). After stirring for 20 h, the solution was poured into 200 mL water, and the resulting precipitate was collected by filtration, washed with water and tetrahydrofuran, and dried under vacuum to afford the title product (0.85 g, 2.9 mmol, 85%) as a powder (m.p. 295-300° C.). TLC Rf 0.20 (ethyl acetate). 1H NMR (d6-DMSO, 300 MHz): δ 8.82 (1H, s), 8.57 (1H, s), 8.09 (1H, t, J=1.8 Hz), 7.58 (1H, dd, J=8.1, 1.1 Hz), 7.51 (1H, d, J=7.8 Hz), 7.36 (1H, t, J=8.0 Hz), 7.34 (2H, d, J=8.4 Hz), 7.12 (2H, d, J=8.4 Hz), 2.82 (1H, heptet, J=6.9 Hz), 1.17 (6H, d, J=6.9 Hz). MS (ES+): 299

reactant | 3-aminobenzoic acid | 3.4 mmol, 0.46 g | NC=1C=C(C(=O)O)C=CC1 | C7H7NO2
reactant | 4-isopropylphenyl isocyanate | 3.7 mmol, 0.59 mL | C(C)(C)C1=CC=C(C=C1)N=C=O | C10H11NO
reactant | water | 200 mL | O | H2O
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 3-[3-(4-ISOPROPYL-PHENYL)-UREIDO]-BENZOIC ACID | 2.9 mmol, 0.85 g, 85% | C(C)(C)C1=CC=C(C=C1)NC(NC=1C=C(C(=O)O)C=CC1)=O | C17H18N2O3
